US06255318B1
Compound #12 N-(3-methoxybenzyl)-2-[1,6]naphthyridine-carboxamide
To a stirring mixture of 2-[1,6]naphthyridinecarboxylic acid (50 mg, 0.287 mmol) in anhydrous DMF (1.0 mL) at room temperature was added sequentially 1-hydroxybenzotriazole hydrate (42.7 mg, 0.316 mmol), 3-methoxybenzylamine (56.6 μL, 0.431 mmol) and 1-(3-dimethylaminopropyl)-3-ethylcarboiimide hydrochloride (61.8 mg, 0.316 mmol). The resulting mixture was allowed to stir at room temperature overnight and it was found to be clear. The solvent was removed under vacuum. Flash column chromatography of the residue (50% hexane/ethyl acetate to 100% ethyl acetate) afforded the desired product as a clear oil (79.1 mg, 94%).

reactant | 2-[1,6]naphthyridinecarboxylic acid | 0.287 mmol, 50 mg | N1=C(C=CC2=CN=CC=C12)C(=O)O | C9H6N2O2
reactant | 1-hydroxybenzotriazole hydrate | 0.316 mmol, 42.7 mg | O.ON1N=NC2=C1C=CC=C2
reactant | 3-methoxybenzylamine | 0.431 mmol, 56.6 μL | COC=1C=C(CN)C=CC1 | C8H11NO
solvent | DMF | 1.0 mL | CN(C)C=O | C3H7NO
product | N-(3-methoxybenzyl)-2-[1,6]naphthyridine-carboxamide | 79.1 mg, 94% | COC=1C=C(CNC(=O)C2=NC3=CC=NC=C3C=C2)C=CC1 | C17H15N3O2
